US05494916
N3 -Acetyl-6-methyl-N4 -(2-phenylethyl)-N2,N2 -bis(phenylmethyl)pyridine-2,3,4-triamine
Triethylamine (2 mL) was added to a solution of 6-methyl-N4 -(2-phenylethyl)-N2,N2 -bis(phenylmethyl)-pyridine-2,3,4-triamine (6 g, 14.2 mmole) in methylene chloride (50 mL). Acetyl chloride (1.1 mL, 15.5 mmole) was slowly added to the reaction mixture which was then heated on a steam bath for about 1 hour. The reaction mixture was stirred at ambient temperature overnight then diluted with water and methylene chloride. The organic phase was separated, washed with water, dried over magnesium sulfate and then concentrated under vacuum to provide a light green solid. This solid was slurried with ethyl acetate/hexane then recrystallized from ethyl acetate/hexane to provide 4.1 g of a white solid. A small portion (0.8 g) was purified by silica gel column chromatography to provide the desired compound as a white solid, m.p. 152°-153° C. Analysis: Calculated for C30H32N4O: % C, 77.56; % H, 6.94; % N, 12.06; Found: % C, 77.61; % H, 6.89: % N, 12.05.

reactant | Triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
reactant | 6-methyl-N4 -(2-phenylethyl)-N2,N2 -bis(phenylmethyl)-pyridine-2,3,4-triamine | 14.2 mmole, 6 g | CC1=CC(=C(C(=N1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)N)NCCC1=CC=CC=C1 | C28H30N4
reactant | Acetyl chloride | 15.5 mmole, 1.1 mL | C(C)(=O)Cl | C2H3ClO
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | Acetyl-6-methyl-N4 -(2-phenylethyl)-N2,N2 -bis(phenylmethyl)pyridine-2,3,4-triamine | 4.1 g | C(C)(=O)C=1C(=C(C(=NC1C)N(CC1=CC=CC=C1)CC1=CC=CC=C1)N)NCCC1=CC=CC=C1 | C30H32N4O
